US09227978B2
3-(2-Chlorophenyl)-5-methoxybenzoic acid
To a solution of 3-bromo-5-methoxybenzoic acid (1 g, 4.06 mmol) and 2-chlorophenylboronic acid (1.27 g, 8.13 mmol) in 1,4-dioxane (10 mL) and water (2 mL), Pd(PPh3)4 (468 mg, 0.40 mmol) and Na2CO3 (2.15 g, 20.3 mmol) were added and the resulting mixture was stirred at 80° C. for 16 h. The mixture was allowed to cool to room temperature and acidified with aqueous HCl (1.0 M) to adjust the pH to 3-4. The mixture was extracted with ethyl acetate. The organic layer was dried over MgSO4, filtered and concentrated in vacuo to afford the desired product (800 mg, 75% yield) without further purification. ESI-MS m/z: 361.2 [M−H]−.

reactant | 3-bromo-5-methoxybenzoic acid | 4.06 mmol, 1 g | BrC=1C=C(C(=O)O)C=C(C1)OC | C8H7BrO3
reactant | 2-chlorophenylboronic acid | 8.13 mmol, 1.27 g | ClC1=C(C=CC=C1)B(O)O | C6H6BClO2
reactant | Na2CO3 | 20.3 mmol, 2.15 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | HCl | 1.0 M | Cl | ClH
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | water | 2 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.40 mmol, 468 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(2-Chlorophenyl)-5-methoxybenzoic acid | 800 mg, 75% yield | ClC1=C(C=CC=C1)C=1C=C(C(=O)O)C=C(C1)OC | C14H11ClO3
